US07592453B2
(3aS*,4R*,9bR*)-4-Phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline dihydrochloride
tert-Butyl (3aR*,4R*,9bR)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate (2.65 g, 7.56 mmol) was dissolved in ethyl acetate (10 ml), and a 4N hydrogen chloride in ethyl acetate solution (20 ml) was added, and the mixture was stirred at room temperature for 12 hrs. The precipitated crystals were collected by filtration, washed with ethyl acetate, and dried under reduced pressure to give the title compound (2.60 g, 77%).

reactant | tert-Butyl (3aR*,4R*,9bR)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate | 7.56 mmol, 2.65 g | C1(=CC=CC=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)OC(C)(C)C | C22H26N2O2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (3aS*,4R*,9bR*)-4-Phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline dihydrochloride | 2.60 g, 77% | Cl.Cl.C1(=CC=CC=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2 | InChI=1S/C17H18N2.2ClH/c1-2-6-12(7-3-1)16-14-10-11-18-17(14)13-8-4-5-9-15(13)19-16;;/h1-9,14,16-19H,10-11H2;2*1H/t14-,16+,17+;;/m1../s1
